US06046207
(±)-cis-9-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole
From 5-methoxycoumarin and N-methoxymethyl-N-trimethylsilylmethyl-benzylamine in an analogous manner as described in Examples 1A-C. 1H NMR (300 MHz, CDCl3) δ 2.55 (m, 1H), 2.67 (dd, 1H), 2.80 (dd, 1H), 3.21 (q, 1H), 3.32 (dd, 1H), 3.62 (dd, 1H), 3.70 (m, 1H), 3.81 (s, 3H), 4.10 (dd, 1H), 6.46 (d, 1H), 6.55 (d, 1H), 7.17 (t, 1H).

reactant | 5-methoxycoumarin | COC1=C2C=CC(OC2=CC=C1)=O | C10H8O3
reactant | N-methoxymethyl-N-trimethylsilylmethyl-benzylamine | COCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C13H23NOSi
product | (±)-cis-9-Methoxy-1,2,3,3a,4,9b-hexahydro-[1]-benzopyrano[3,4-c]pyrrole | COC1=CC=CC2=C1[C@H]1[C@H](CNC1)CO2 | C12H15NO2
